US09303023B2
1-[3-(5-Methoxy-2,3-dihydro-indol-1-yl)-propyl]-1H-pyrazol-4-ylamine
To a solution of 5-methoxy-1-(3-(4-nitro-1H-pyrazol-1-yl)propyl)indoline (1.18 mmol), in MeOH (6.0 mL, degassed), PtO2 (12 mg, 0.05 mmol) was added and the reaction mixture was stirred at rt under a H2-atmosphere for 18 h. The mixture was diluted with MeOH, filtered over celite and the filter cake was rinsed with MeOH. The filtrate was concentrated to obtain the title compound as a brown oil, which was used in the next step without further purification. LC-MS conditions B: tR=0.32 min, [M+H]+=273.1.

reactant | 5-methoxy-1-(3-(4-nitro-1H-pyrazol-1-yl)propyl)indoline | 1.18 mmol | COC=1C=C2CCN(C2=CC1)CCCN1N=CC(=C1)[N+](=O)[O-] | C15H18N4O3
solvent | MeOH | 6.0 mL | CO | CH4O
catalyst | PtO2 | 0.05 mmol, 12 mg | O=[Pt]=O
product | 1-[3-(5-Methoxy-2,3-dihydro-indol-1-yl)-propyl]-1H-pyrazol-4-ylamine | COC=1C=C2CCN(C2=CC1)CCCN1N=CC(=C1)N | C15H20N4O
